US08486967B2
2-{6-(4-Chloro-benzyl)-2-[1-(6-methyl-pyrimidin-4-yl)-piperidin-4-ylamino]-pyrimidin-4-yl}-propan-2-ol
To a solution of 1-(6-methyl-pyrimidin-4-yl)-piperidin-4-ylamine dihydrochloride (53 mg, 0.2 mmol) and N,N-diisopropylethyl amine (120 L, 0.7 mmol) in N-methyl-pyrrolidinone (0.5 mL) was added a solution of 2-[2-chloro-6-(4-chloro-benzyl)-pyrimidin-4-yl]-propan-2-ol (65.4 mg, 0.22 mmol)) in dioxane (1.5 mL). The reaction was heated at 160° C. in a microwave oven for 5 hours. The reaction was diluted with water and extracted twice with ethyl acetate. The combined organic layers were washed with water, dried over sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel using a gradient from AcOEt to AcOEt/EtOH 9:1 (v/v) as eluent. The title compound was obtained as a white solid (27 mg, 30%).

reactant | 1-(6-methyl-pyrimidin-4-yl)-piperidin-4-ylamine dihydrochloride | 0.2 mmol, 53 mg | Cl.Cl.CC1=CC(=NC=N1)N1CCC(CC1)N
reactant | N,N-diisopropylethyl amine | 0.7 mmol, 120 L | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-[2-chloro-6-(4-chloro-benzyl)-pyrimidin-4-yl]-propan-2-ol | 0.22 mmol, 65.4 mg | ClC1=NC(=CC(=N1)C(C)(C)O)CC1=CC=C(C=C1)Cl | C14H14Cl2N2O
solvent | N-methyl-pyrrolidinone | 0.5 mL | CN1C(CCC1)=O | C5H9NO
solvent | dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 2-{6-(4-Chloro-benzyl)-2-[1-(6-methyl-pyrimidin-4-yl)-piperidin-4-ylamino]-pyrimidin-4-yl}-propan-2-ol | ClC1=CC=C(CC2=CC(=NC(=N2)NC2CCN(CC2)C2=NC=NC(=C2)C)C(C)(C)O)C=C1 | C24H29ClN6O
